US05457105
Using an analogous procedure to that described in Example 4, 6,7-dimethoxy-4-(3'-chloroanilino)quinazoline was reacted with sodium ethanethiolate to give 6,7-dihydroxy-4-(3'-chloroanilino)quinazoline in 68% yield, m.p. 233°-235° C.

reactant | 6,7-dimethoxy-4-(3'-chloroanilino)quinazoline | COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=CC=C1)Cl | C16H14ClN3O2
reactant | sodium ethanethiolate | C(C)[S-].[Na+]
product | 6,7-dihydroxy-4-(3'-chloroanilino)quinazoline | 68% yield | OC=1C=C2C(=NC=NC2=CC1O)NC1=CC(=CC=C1)Cl | C14H10ClN3O2
